US05574055
Mixture of (R)- and (S)-[4-[4-[(R)-5-Methoxymethyl-2-oxo-oxazolidin-3-yl]-phenyl]-cyclohexylidene-acetonitrile
0.66 g of sodium were dissolved in 70 ml of ethanol under argon. Thereafter, 5.08 g (=4.51 ml) of diethyl cyanomethylphosphonate dissolved in 20 ml of ethanol were added at 20°. The mixture was stirred at room temperature for 30 minutes and then 2.9 g of (R)-5-methoxymethyl-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one were added. Thereafter, the reaction mixture was stirred at reflux for a further 1 hour, cooled to room temperature, adjusted to pH 6 with about 1 ml of glacial acetic acid and evaporated in a vacuum. The residue was dissolved in dichloromethane and washed three times with water, subsequently dried and evaporated. The excess phosphoric ester, which was still present in the residue, was distilled off at a bath temperature of ~100° and 0.03 mm vacuum (bP0.03 34°). The residue remaining (3.2 g) was chromatographed over 250 g of silica gel using medium pressure. Elution was carried out with dichloromethane, dichloromethane/ethyl acetate 20:1. The fractions which were pure according to thin-layer chromatography were combined and concentrated in a vacuum. 2.6 g of mixture of (R)- and (S)-[4-[4-[(R)-5-methoxymethyl-2-oxo-oxazolidin-3-yl]-phenyl]-cyclohexylidene]-acetonitrile (~1:2 E/Z or Z/E) were obtained as a slightly turbid oil. This was used directly for the reduction.

reactant | sodium | 0.66 g | [Na] | Na
reactant | diethyl cyanomethylphosphonate | 4.51 ml, 5.08 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | (R)-5-methoxymethyl-3-[4-(4-oxo-cyclohexyl)-phenyl]-oxazolidin-2-one | 2.9 g | COC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=O | C17H21NO4
reactant | acetic acid | about 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[4-[(R)-5-Methoxymethyl-2-oxo-oxazolidin-3-yl]-phenyl]-cyclohexylidene-acetonitrile | 2.6 g | COC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1CCC(CC1)=CC#N | C19H22N2O3
